US05273999
Preparation of 3-(3-Ethoxy-3-oxopropyl)-4-methoxy-γ-oxobenzenebutanoic Acid
Starting with a mixture of 3.12 g (15.0 mmol) of 2-methoxybenzenepropanoic acid ethyl ester, 1.53 g (15.3 mmol) of succinic anhydride, 4.46 (33.5 mmol) of aluminum chloride and 20 mL of methylene chloride, the title compound (3.59 g, 77.7%) was obtained as a white solid, mp 128°-129° C. (recrystallized from ethanol), using the procedure of example 139.

reactant | 2-methoxybenzenepropanoic acid ethyl ester | 15.0 mmol, 3.12 g | C(C)OC(CCC1=C(C=CC=C1)OC)=O | C12H16O3
reactant | succinic anhydride | 15.3 mmol, 1.53 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-Ethoxy-3-oxopropyl)-4-methoxy-γ-oxobenzenebutanoic Acid | 3.59 g, 77.7% | C(C)OC(CCC=1C=C(C=CC1OC)C(CCC(=O)O)=O)=O | C16H20O6
